US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((5-phenyl-1,3,4-oxadiazol-2-yl)methyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (5-phenyl-1,3,4-oxadiazol-2-yl)methanamine oxalate, the title compound was obtained as a colorless solid in 67% yield: 1H NMR (300 MHz, CDCl3) δ 8.06-8.01 (m, 2H), 7.55-7.45 (m, 3H), 7.30-7.24 (m, 2H), 7.07-6.98 (m, 2H), 6.45 (t, J=5.4 Hz, 1H), 6.11 (s, 1H), 4.90 (d, J=5.4 Hz, 2H), 4.43 (s, 2H), 3.84-3.76 (m, 2H), 3.48-3.40 (m, 2H), 2.50 (s, 3H); MS (ES+) m/z 514.1 (M+23).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (5-phenyl-1,3,4-oxadiazol-2-yl)methanamine oxalate | C(C(=O)O)(=O)O.C1(=CC=CC=C1)C1=NN=C(O1)CN
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((5-phenyl-1,3,4-oxadiazol-2-yl)methyl)thiophene-2-carboxamide | 67% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC=2OC(=NN2)C2=CC=CC=C2)C)=O)C=C1 | C25H22FN5O3S
